US07691882B2
2-(4-((E)-Nitro-vinyl)-phenoxymethyl)-pyridine
A mixture of 4-(pyridin-2-ylmethoxy)-benzaldehyde (29 g, 136 mmol) described in Manufacturing Example 203-1-1, nitromethane (36.6 mL, 680 mmol), ammonium acetate (21 g, 272 mmol), and acetic acid (300 mL) was stirred for 21 hours at 100° C. This mixture was cooled to room temperature and concentrated under a reduced pressure. The residue was partitioned into ethyl acetate and water. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (33.9 g, 97%).

reactant | 4-(pyridin-2-ylmethoxy)-benzaldehyde | 136 mmol, 29 g | N1=C(C=CC=C1)COC1=CC=C(C=O)C=C1 | C13H11NO2
reactant | nitromethane | 680 mmol, 36.6 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 272 mmol, 21 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 2-(4-((E)-Nitro-vinyl)-phenoxymethyl)-pyridine | 33.9 g, 97% | [N+](=O)([O-])/C=C/C1=CC=C(OCC2=NC=CC=C2)C=C1 | C14H12N2O3
